US04241058
300 g of 32% hydrochloric acid are added dropwise at 15°-20° C. over a period of 1 hour to a mixture of 300 g of p-tert.-butyl-benzaldehyde and 300 g of methyl ethyl ketone and the mixture is left to stir at room temperature for 22 hours. Subsequently, the mixture is taken up in 200 ml of ether, washed with water and saturated sodium bicarbonate solution, dried over sodium sulphate and concentrated. By fractional distillation there is obtained pure 4-(p-tert.butyl-phenyl)-3-methyl-3-buten-2-one of boiling point 120° C./0.03 Torr.

reactant | hydrochloric acid | 300 g | Cl | ClH
reactant | p-tert.-butyl-benzaldehyde | 300 g | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | methyl ethyl ketone | 300 g | C(C)C(=O)C | C4H8O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 4-(p-tert.butyl-phenyl)-3-methyl-3-buten-2-one | C(C)(C)(C)C1=CC=C(C=C1)C=C(C(C)=O)C | C15H20O
